US05958942
3-Amino-5-ethoxycarbonyl-2-methyl-imidazo[1,2-a]pyridine
To a solution of 300 mg of 5-ethoxycarbonyl-2-methyl-3-nitroimidazo[1,2-a]pyridine in 20 ml of methanol was added 10%Pd-C (wet, 90 mg). The mixture was stirred for two hours at room temperature under hydrogen atmosphere. The catalyst was filtered off and washed with methanol. The filtrate and the washing were combined, and the solvent was filtered off. The residue was purified by column chromatography (eluent: ethyl acetate) to afford 184 mg of the object product (69.7%, an orange solid)

reactant | 5-ethoxycarbonyl-2-methyl-3-nitroimidazo[1,2-a]pyridine | 300 mg | C(C)OC(=O)C1=CC=CC=2N1C(=C(N2)C)[N+](=O)[O-] | C11H11N3O4
solvent | methanol | 20 ml | CO | CH4O
catalyst | Pd-C | 90 mg | [Pd] | Pd
product | 3-Amino-5-ethoxycarbonyl-2-methyl-imidazo[1,2-a]pyridine | 184 mg | NC1=C(N=C2N1C(=CC=C2)C(=O)OCC)C | C11H13N3O2
